US06432962B1
7-Bromoindole(0.37 g, 1.9 mmol) was dissolved in dry DMF. K2CO3 (0.52 g, 3.8 mmol) and methyliodide (0.13 mL, 2.08 mmol) were added. The reaction was stirred at room temperature for 5 days, after which H2O (20 mL) was added, the water phase was extracted with Et2O (3×20 mL), and the combined organic phases were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by chromatography, eluent EtOAc:petroleum ether 1:20 to give 7-bromo-1-methylindole as a crystalline compound.

reactant | 7-Bromoindole | 1.9 mmol, 0.37 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | K2CO3 | 3.8 mmol, 0.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyliodide | 2.08 mmol, 0.13 mL | CI | CH3I
reactant | H2O | 20 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 7-bromo-1-methylindole | BrC=1C=CC=C2C=CN(C12)C | C9H8BrN
